US09290476B2
(1-Methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol
A solution of isopropylmagnesium chloride/lithium chloride complex (1.3 M in THF, 19.5 mL, 25.35 mmol) was added dropwise by syringe to a solution of 5-bromo-1-methyl-1H-imidazole (4.12 g, 25.58 mmol) in dry THF (130 mL) at 0° C. After 15 minutes, the Grignard solution was added via cannulation to a solution of picolinaldehyde (2.0 ml, 20.93 mmol) in dry THF (55 mL) at 0° C. The reaction mixture was stirred for 5 minutes at 0° C., then warmed to room temperature for 1 hour. The reaction mixture was then cooled in an ice bath and quenched with saturated aqueous ammonium chloride. The mixture was partitioned between brine and ethyl acetate. The separated aqueous phase was further extracted with ethyl acetate. The organic phase was dried (Na2SO4), filtered, and concentrated. The crude product was purified by flash column chromatography (silica gel, 0-5% MeOH-DCM) to provide the title compound as a white solid.

reactant | isopropylmagnesium chloride lithium chloride | 25.35 mmol, 1.3 M, 19.5 mL | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | 5-bromo-1-methyl-1H-imidazole | 25.58 mmol, 4.12 g | BrC1=CN=CN1C | C4H5BrN2
reactant | picolinaldehyde | 20.93 mmol, 2.0 ml | N1=C(C=CC=C1)C=O | C6H5NO
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
product | (1-Methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol | CN1C=NC=C1C(O)C1=NC=CC=C1 | C10H11N3O
